US07414052B2
A solution of (2S,3S)-3-(5-fluoro-3-methyl-1H-indol-1-yl)-3-phenylpropane-1,2-diol (1.03 g, 3.4 mmol) and p-toluenesulfonyl chloride (0.78 g, 4.1 mmol) in anhydrous pyridine (11 ml) was stirred at room temperature under nitrogen for 12 hours. The reaction was poured into a 1N aqueous solution of hydrochloric acid (50 mL) and extracted with ethyl acetate (50 mL). The organics were dried over anhydrous sodium sulfate, filtered, and concentrated to give (2S,3S)-toluene-4-sulfonic acid 3-(5-fluoro-3-methyl-indol-1-yl)-2-hydroxy-3-phenyl-propyl ester. The product was used in the next step without further purification. To a solution of toluene-4-sulfonic acid 3-(5-fluoro-3-methyl-indol-1-yl)-2-hydroxy-3-phenyl-propyl ester (1.6 g, 3.4 mmol) in methanol (10 mL) was added a 2N solution of methylamine in methanol (8.6 mL, 17 mmol) and the reaction stirred for 12 hours. Upon completion, the reaction was partitioned between saturated sodium bicarbonate (50 mL) and ethyl acetate (50 mL). The organic layer was separated, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The crude product was purified via Biotage chromatography (FlasH40i, silica, 20% MeOH/dichloromethane) to give (1S,2R)-1-(5-fluoro-3-methyl-1H-indol-1-yl)-3-(methylamino)-1-phenylpropan-2-ol as a clear oil. The free base was dissolved in a minimum amount of ethanol and treated with a 2N ethereal solution of hydrochloric acid and stirred for 1 hour. The ethanol was removed in vacuo and the clear oil was triturated with ether/dichloromethane to give (1S,2R)-1-(5-fluoro-3-methyl-1H-indol-1-yl)-3-(methylamino)-1-phenylpropan-2-ol hydrochloride as a white solid. MS (ESI) m/z 313.

reactant | toluene-4-sulfonic acid 3-(5-fluoro-3-methyl-indol-1-yl)-2-hydroxy-3-phenyl-propyl ester | 3.4 mmol, 1.6 g | FC=1C=C2C(=CN(C2=CC1)C(C(COS(=O)(=O)C1=CC=C(C=C1)C)O)C1=CC=CC=C1)C | C25H24FNO4S
reactant | methylamine | CN | CH5N
solvent | methanol | 10 mL | CO | CH4O
solvent | methanol | 17 mmol, 8.6 mL | CO | CH4O
product | (1S,2R)-1-(5-fluoro-3-methyl-1H-indol-1-yl)-3-(methylamino)-1-phenylpropan-2-ol | FC=1C=C2C(=CN(C2=CC1)[C@H]([C@@H](CNC)O)C1=CC=CC=C1)C | C19H21FN2O
